US05453518
8-Hydroxymethyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran (Intermediate II)
467 ml of a 1.48N sodium borohydride solution in dimethylformamide was added over a period of 30 minutes, with stirring at ambient temperature, to a solution of 100 g of 3-methyl-4-oxo-2-phenyl-4H-1-benzopyran-8-carbonyl chloride (prepared as described in Da Re, P. et al., J. Med. Pharm. Chem. 2: 263 (1960)) in 1 liter of anhydrous dimethylformamide and the reaction mixture was stirred for 2.5 hours at ambient temperature. Maintaining the reaction mixture temperature at 0°-5° C., 88 ml of 2N hydrochloric acid was added to the mixture followed by addition of 102 ml of a 12.7N sodium hydroxide solution. The resultant mixture was poured into 6 liters of water, stirred for 3 hours, and filtered by suction. The solid, sequentially washed with a 4N sodium hydroxide solution and water, was then crystallized from methanol. Yield: 50 g of the title compound, melting point 145°-147° C.

reactant | sodium borohydride | 1.48N | [BH4-].[Na+]
reactant | 3-methyl-4-oxo-2-phenyl-4H-1-benzopyran-8-carbonyl chloride | 100 g | CC1=C(OC2=C(C1=O)C=CC=C2C(=O)Cl)C2=CC=CC=C2 | C17H11ClO3
reactant | hydrochloric acid | 2N, 88 ml | Cl | ClH
reactant | sodium hydroxide | 12.7N | [OH-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
solvent | water | 6 liters | O | H2O
product | 8-Hydroxymethyl-3-methyl-4-oxo-2-phenyl-4H-1-benzopyran | OCC1=CC=CC=2C(C(=C(OC21)C2=CC=CC=C2)C)=O | C17H14O3
